US07749999B2
5-tert-Butyl-3-chloro-2-methoxy-phenylamine (25).
5-tert-Butyl-1-chloro-2-methoxy-3-nitro-benzene (157 mg, 0.646 mmol) was dissolved in 3 mL concentrated HCl and SnCl2.2H2O (0.874 g, 3.87 mmol) was added. The reaction was stirred at 90° C. for 2 hrs, after which water was added and the product extracted into diethyl ether. The organic layer was dried over MgSO4 and concentrated. The residue was purified by column chromatography (2/1 Hex/EtOAc) to yield 100 mg of final product. Calculated mass=213. Observed mass=214

reactant | 5-tert-Butyl-1-chloro-2-methoxy-3-nitro-benzene | 0.646 mmol, 157 mg | C(C)(C)(C)C=1C=C(C(=C(C1)Cl)OC)[N+](=O)[O-] | C11H14ClNO3
reactant | SnCl2.2H2O | 3.87 mmol, 0.874 g | O.O.Cl[Sn]Cl
reactant | water | O | H2O
solvent | HCl | 3 mL | Cl | ClH
product | 5-tert-Butyl-3-chloro-2-methoxy-phenylamine | 100 mg | C(C)(C)(C)C=1C=C(C(=C(C1)N)OC)Cl | C11H16ClNO
